US06114527
Process for the Preparation of 5-cyanopyrimidinol
Cyanoacetamide (8.58 g, 0.10 mol) was added to an initial charge of sodium methoxide (54.02 g, 0.30 mol, 29% in methanol). 150 ml of dimethoxyethane were added. The solid Gold's reagent prepared as in Example 1 (18.08 g, 0.11 mol) was then added using a spatula. The suspension was then stirred overnight at room temperature. The yellow suspension was poured on to an aqueous, ice-cold hydrochloric acid solution (2 eq. of HCl) and adjusted to pH 5.5. After the organic solvents had been evaporated off, the product precipitated out of the aqueous phase. Digestion in water and subsequent filtration gave the title product in a yield of: 9.14 g (75%) in the form a yellow solid.

reactant | Cyanoacetamide | 0.10 mol, 8.58 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 0.30 mol, 54.02 g | C[O-].[Na+]
reactant | Gold's reagent | CN(C)C=NC=[N+](C)C.[Cl-]
solvent | dimethoxyethane | 150 ml | C(OC)COC | C4H10O2
product | 5-cyanopyrimidinol | C(#N)C=1C=NC(=NC1)O | C5H3N3O
